US06476026B1
A solution of tert-butyl 4-(4-chloromethylthiazol-2-yl)piperazine-1-carboxyate (860 mg, 2.7 mmol) and methyl piperidine-4-carboxylate (539 mg, 3 mmol) in DMF was treated with potassium carbonate (414 mg, 3 mmol). The mixture was stirred at 70° C. for 18 hours and then concentrated under vacuum. Product was purified from the residue by flash chromatography on silica gel to provide tert-butyl 4-[4-(4-methoxycarbonylpiperidin-1-ylmethyl)thiazol-2-yl]piperazine-1-carboxylate (575 mg, 50% yield). HNMR (dmso-d6): 6.58 (1H, s), 3.59 (2H, s), 3.42 (4H, m), 3.34 (4H, m), 3.32 (3H, s), 2.78 (2H, m), 2.28 (1H, m), 2.02 (2H, m), 1.77 (2H, m), 1.57 (2H, m), 1.41 (3H, s).

reactant | tert-butyl 4-(4-chloromethylthiazol-2-yl)piperazine-1-carboxyate | 2.7 mmol, 860 mg | ClCC=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H20ClN3O2S
reactant | methyl piperidine-4-carboxylate | 3 mmol, 539 mg | N1CCC(CC1)C(=O)OC | C7H13NO2
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 4-[4-(4-methoxycarbonylpiperidin-1-ylmethyl)thiazol-2-yl]piperazine-1-carboxylate | 575 mg, 50% yield | COC(=O)C1CCN(CC1)CC=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H32N4O4S
